* AC-coupled common-emitter amplifier, gain approximately -10.
VIN IN 0 DC 0 AC 1
VDD VCC 0 12
CIN IN B 10u
RBIAS1 VCC B 47k
RBIAS2 B 0 4.7k
RC VCC C 2.2k
RE E 0 170
Q1 C B E 2N2222
RBYPASS C OUT 1m
RLOAD OUT 0 10k
.end
